US08580824B2
A solution of 2-chloro-6-isobutylisonicotinic acid tert.-butyl ester (1.70 g, 6.3 mmol) in 4 N HCl in dioxane (50 mL) is stirred at 60° C. for 30 h. The solvent is evaporated and the crude product is purified by MPLC on silica gel (heptane:EA gradient) to give 2-chloro-6-isobutylisonicotinic acid hydrochloride (0.81 g) as a beige resin; LC-MS: tR=0.89 min, [M+1]+=214.02.

reactant | 2-chloro-6-isobutylisonicotinic acid tert.-butyl ester | 6.3 mmol, 1.70 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)CC(C)C)Cl)=O | C14H20ClNO2
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-6-isobutylisonicotinic acid hydrochloride | 0.81 g | Cl.ClC=1C=C(C(=O)O)C=C(N1)CC(C)C | InChI=1S/C10H12ClNO2.ClH/c1-6(2)3-8-4-7(10(13)14)5-9(11)12-8;/h4-6H,3H2,1-2H3,(H,13,14);1H
